US08609653B2
An ice cold solution of ethyl 4-(8-chloro-5-methylchroman-6-yl)-9-cyclopropyl-2-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carboxylate (348 mg, 0.726 mmol) in tetrahydrofuran (THF) (7 mL) was treated slowly with LAH (1M in THF) (2.179 mL, 2.179 mmol), and then stirred at rt for 18 hours. LCMS indicated mixture of chlorinated and dechlorinated product. Continued adding LAH (total 11 mL over 1 day) until all the chlorine had been reduced. The reaction was cooled to 0° C., treated slowly with 501 uL H2O, followed by 501 uL 15% aq. NaOH and 3×501 uL H2O. The mixture was stirred at rt for 1 hour, filtered, washed with EtOAc, and then concentrated to give crude alcohol as beige solid. The intermediate was suspended in dichloromethane (DCM) (7.00 mL), treated with PCC (235 mg, 1.090 mmol), and stirred at rt for 4.5 hours. The mixture was treated with additional PCC (108 mg), Celite™ (350 mg), DCM (3 mL), and stirred over the weekend. The mixture was filtered through a short pad of Celite™ washed with large amount of EtOAc, and then concentrated. Purification with column chromatography (0-70% EtOAc/Hexane) gave 9-cyclopropyl-2-methyl-4-(5-methylchroman-6-yl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carbaldehyde (112.5 mg, 0.281 mmol, 38.7% yield) as off white powder, LCMS (m/z) ES+=401 (M+1), NMR was mixed.

reactant | ethyl 4-(8-chloro-5-methylchroman-6-yl)-9-cyclopropyl-2-methyl-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carboxylate | 0.726 mmol, 348 mg | ClC=1C=C(C(=C2CCCOC12)C)C1=C(C(=NC=2N(C=3CCCCC3C21)C2CC2)C)C(=O)OCC | C28H31ClN2O3
reactant | LAH | 2.179 mmol, 1M, 2.179 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | LAH | 11 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | chlorine | ClCl | Cl2
reactant | NaOH | 501 uL | [OH-].[Na+]
reactant | PCC | 1.090 mmol, 235 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
reactant | PCC | 108 mg | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 7.00 mL | ClCCl | CH2Cl2
solvent | DCM | 3 mL | ClCCl | CH2Cl2
solvent | H2O | 501 uL | O | H2O
solvent | H2O | 501 uL | O | H2O
product | 9-cyclopropyl-2-methyl-4-(5-methylchroman-6-yl)-6,7,8,9-tetrahydro-5H-pyrido[2,3-b]indole-3-carbaldehyde | 0.281 mmol, 112.5 mg, 38.7% yield | C1(CC1)N1C2=C(C=3CCCCC13)C(=C(C(=N2)C)C=O)C=2C(=C1CCCOC1=CC2)C | C26H28N2O2
